US06608070B1
2-Bromoacety-4-[1-(tert-butyldimethylsilyloxy)ethyl]pyridine
The title compound was prepared according to the procedure for preparing 2-bromoacetyl-4-(tert-butyldimethylsilyloxymethyl)pyridine described in Example 95 from 2-acetyl-4-[1-(tert-butyldimethylsilyloxy)ethyl]pyridine.

reactant | 2-bromoacetyl-4-(tert-butyldimethylsilyloxymethyl)pyridine | BrCC(=O)C1=NC=CC(=C1)CO[Si](C)(C)C(C)(C)C | C14H22BrNO2Si
reactant | 2-acetyl-4-[1-(tert-butyldimethylsilyloxy)ethyl]pyridine | C(C)(=O)C1=NC=CC(=C1)C(C)O[Si](C)(C)C(C)(C)C | C15H25NO2Si
product | 2-Bromoacety-4-[1-(tert-butyldimethylsilyloxy)ethyl]pyridine | BrCC(=O)C1=NC=CC(=C1)C(C)O[Si](C)(C)C(C)(C)C | C15H24BrNO2Si
